datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1CC[N+:12](=[C:11]2CCCC[CH:10]2[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:92][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61](=[O:62])[O:92]CC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4CC[CH:20]([CH:10]([S:61](C5=CC=CC=C5)(=[O:62])=[O:72])[C:81]5=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:96])[CH:93]=[CH:92]5)C1C2C43 10=20;20,21=21"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CC[O:92][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC[O:92][C:61]([CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([N+:76](=[O:77])[O-:97])[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([N+:76](=[O:77])[O-:97])[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1>>CC1=CC(C)=C(C(C)C[CH:20]([H:10])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[Si:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[CH:74][CH:83]=[CH:82]1 10,11=10,20"
"C1=CC=C([P:71](C2=CC=CC=C2)([CH-:10][C:61]#[N:62])=[O:72])C=C1.CSC[C:20](C)=[O:21]>>CSC[C:20](C)([CH:10]([C:61]#[N:62])[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[O-:21] 10=20;20,21=21"
C1CC[N:72]([C:61]([S-:10])=[S:62])C1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([S:10][C:61](=[S:62])[N:72]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.[H][B-:11]([H])([H:10])[C:62]#[N:63]>>C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH:20]2[H:10].[H][B:11]([H])[C:62]#[N:63] 10,11=10,20"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([H:10])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:62](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:75](C2=CC=CC=C2)=[N:73]1.COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([CH:10](C3=CC=C([N+](=O)[O-])C=C3)[C:11]3=[N+:12](C4=C(C(C)(C)C)C=CC=C4C(C)(C)C)[N:73]=[C:75](C4=CC=CC=C4)[N:62]3C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CN(C)C1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([S+:11](C)C)[C:61](C1=CC=C(N(C)C)C=C1)=[O:62])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21].[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[C:20]1([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]1F 10=20;20,21=21"
